US05534525
EXAMPLE 1: (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-ethoxycarbonyl-4-(2-oxopiperidino) piperidino]butyl]-N-methylbenzamide hydrochloride.
(S)-N-[2-(3,4-Dichlorophenyl)-4-oxobutyl]-N-methylbenzamide (415 mg) in methanol (3 mL) was added to a solution of 4-ethoxy-carbonyl-4-(2-oxopiperidino) piperidine (391 mg) and acetic acid (0.09 mL) in methanol (6 mL). After 15 minutes, sodium cyanoborohydride (100 mg) in methanol (3 mL) was added in a single portion. After being stirred for 3 hours, the reaction mixture was diluted with aqueous sodium bicarbonate, stirred for 30 minutes, and extracted with dichloromethane. The organic extracts were dried, evaporated, and chromatographed, with dichloromethane:methanol (95:5) as eluent. The resulting material was dissolved in dichloromethane, precipitated out as the hydrochloride salt with ethereal hydrogen chloride, evaporated, and placed under high vacuum overnight to give the title compound as a white solid (630 mg); MS: m/z=588(M+l). Analysis for C31H39Cl2N3O4 ·1.70 HCl·0.20 (C2H5)2O: Calculated: C, 57.40; H, 6.46; N, 6.31; Found: C, 57.40; H, 6.37; N, 6.17.

reactant | (S)-N-[2-(3,4-Dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | 415 mg | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
reactant | 4-ethoxy-carbonyl-4-(2-oxopiperidino) piperidine | 391 mg | C(C)OC1(CC(NCC1)=C=O)N1C(CCCC1)=O | C13H20N2O3
reactant | acetic acid | 0.09 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 100 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 6 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-ethoxycarbonyl-4-(2-oxopiperidino) piperidino]butyl]-N-methylbenzamide hydrochloride | 630 mg | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)(N1C(CCCC1)=O)C(=O)OCC | InChI=1S/C31H39Cl2N3O4.ClH/c1-3-40-30(39)31(36-17-8-7-11-28(36)37)15-19-35(20-16-31)18-14-25(24-12-13-26(32)27(33)21-24)22-34(2)29(38)23-9-5-4-6-10-23;/h4-6,9-10,12-13,21,25H,3,7-8,11,14-20,22H2,1-2H3;1H/t25-;/m1./s1
